US07968587B2
Combine dichloromethane (15 ml) and (R)-[7-cyano-1,2,3,4-tetrahydro-cyclopenta[b]indol-2-yl]-carbamic acid tert-butyl ester (2 g, 6.73 mmol) and stir for 10 min under nitrogen at room temperature. Add diisobutylaluminum hydride (1 M solution in methylene chloride, 14.1 ml; 14.1 mmol) dropwise over 15 min. Add ethyl acetate (30 mL) to the reaction mixture and stir at room temperature for 1 h. Add a 20% aqueous solution of sodium tartrate (30 mL) and stir for 1 h at room temperature. Separate the organic layer and extract the aqueous layer with ethyl acetate (2×15 mL). Combine and dry (Na2SO4) organic layers, filter and concentrate to give 2.2 g [(R)-7-formyl-1,2,3,4-tetrahydro-cyclopenta[b]indol-2-yl]-carbamic acid tert-butyl ester. Purify by chromatography on silica gel using methylene chloride/acetone (95/5) to give 1.3 g (64%). MS (m/z): 301 (M+1).

reactant | dichloromethane | 15 ml | ClCCl | CH2Cl2
reactant | (R)-[7-cyano-1,2,3,4-tetrahydro-cyclopenta[b]indol-2-yl]-carbamic acid tert-butyl ester | 6.73 mmol, 2 g | C(C)(C)(C)OC(N[C@@H]1CC2=C(NC=3C=CC(=CC23)C#N)C1)=O | C17H19N3O2
reactant | diisobutylaluminum hydride | 14.1 mmol, 1 M, 14.1 ml | [H-].C(C(C)C)[Al+]CC(C)C
reactant | sodium tartrate | 30 mL | C(=O)([O-])C(O)C(O)C(=O)[O-].[Na+].[Na+]
solvent | ethyl acetate | 30 mL | C(C)(=O)OCC | C4H8O2
product | [(R)-7-formyl-1,2,3,4-tetrahydro-cyclopenta[b]indol-2-yl]-carbamic acid tert-butyl ester | 2.2 g | C(C)(C)(C)OC(N[C@@H]1CC2=C(NC=3C=CC(=CC23)C=O)C1)=O | C17H20N2O3
